US06908913B2
b) 7-(6-Methylpyridin-3-yl)carbonyl-2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole
The title compound (606 mg) was prepared in substantially the same manner as in step c) of Synthesis Example 1, except that 447 mg of 7-(6-methylpyridin-3-yl)carbonylimidazo[5,1-b]thiazole, 0.552 ml of tri-n-butylstannyl chloride, and 3.2 ml of a 1.0 N lithium bis(trimethylsilyl)amide/THF solution were used as the starting materials.

reactant | 7-(6-methylpyridin-3-yl)carbonylimidazo[5,1-b]thiazole | 447 mg | CC1=CC=C(C=N1)C(=O)C=1N=CN2C1SC=C2 | C12H9N3OS
reactant | tri-n-butylstannyl chloride | 0.552 ml | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | lithium bis(trimethylsilyl)amide THF | 1.0 N | C[Si](C)(C)[N-][Si](C)(C)C.[Li+].C1CCOC1
product | 7-(6-Methylpyridin-3-yl)carbonyl-2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole | 606 mg | CC1=CC=C(C=N1)C(=O)C=1N=CN2C1SC(=C2)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C12H8N3OS.3C4H9.Sn/c1-8-2-3-9(6-13-8)11(16)10-12-15(7-14-10)4-5-17-12;3*1-3-4-2;/h2-4,6-7H,1H3;3*1,3-4H2,2H3;
